US04582837
6-Methyl-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 1 from 6-methyl-2-(2'-methoxy-4'-hydroxy-phenyl)-imidazo[4,5-b]pyridine and methanesulfonic acid chloride.

reactant | 6-methyl-2-(2'-methoxy-4'-hydroxy-phenyl)-imidazo[4,5-b]pyridine | CC=1C=C2C(=NC1)N=C(N2)C2=C(C=C(C=C2)O)OC | C14H13N3O2
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 6-Methyl-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine | CC=1C=C2C(=NC1)N=C(N2)C2=C(C=C(C=C2)OS(=O)(=O)C)OC | C15H15N3O4S
